US05964919
To the stirring slurry of Zn* in THF was added 1,4-dibromobutane (1.186 g, 5.495 mmol) via disposable syringe. The reaction mixture became slightly warm and stirring was continued for 8 hours. The stirring was then stopped and the excess zinc was allowed to settle for 8 hours. The light brown solution of the bis-organozinc halide reagent was carefully transferred to a solution of CUCN (0.10 g, 1.1 mmol) and dry THF under argon. The resulting solution was stirred for 10 min. and valeroyl chloride (1.40 g, 11.6 mmol) was added by disposable syringe. The reaction was stirred overnight, slowly warming to room temperature. The reaction mixture was then quenched by addition to 30 ml 3M HCl. The organic layer was taken up in 20 ml ether and the aqueous layer was extracted two times, using 20 ml ether each time. The combined organics were washed consecutively with 20 ml each of saturated sodium bicarbonate, water, and brine. The organics were dried over anhydrous magnesium sulfate, filtered, and concentrated. 5,10-tetradecandione (1.11 g, 4.90 mmol) was isolated from silica gel using ethyl acetate/hexanes (1:4) as the eluent system.

reactant | 1,4-dibromobutane | 5.495 mmol, 1.186 g | BrCCCCBr | C4H8Br2
reactant | valeroyl chloride | 11.6 mmol, 1.40 g | C(CCCC)(=O)Cl | C5H9ClO
solvent | THF | C1CCOC1 | C4H8O
catalyst | Zn | [Zn] | Zn
product | 5,10-tetradecandione | 4.90 mmol, 1.11 g | CCCCC(CCCCC(CCCC)=O)=O | C14H26O2
